US05302720
3-Methyl-2-nitrobiphenyl (1 g) was heated at 90°-95° C. for 28 hours with hydrated sodium sulphide (4.5 g) and ethanol (25 ml) to give 2-amino-3-methyl-biphenyl (m.p. 66°-67° C.) which was recrystallised from hexane and converted into its hydrochloride salt.

reactant | 3-Methyl-2-nitrobiphenyl | 1 g | CC=1C(=C(C=CC1)C1=CC=CC=C1)[N+](=O)[O-] | C13H11NO2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-amino-3-methyl-biphenyl | NC1=C(C=CC=C1C)C1=CC=CC=C1 | C13H13N
